US09403846B2
Step 2. Synthesis of rel-(3R,3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)-3-(fluoromethyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C44)
Conversion of rel-(3R,3aR,5R)-5-cyclopropyl-3-(fluoromethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole (C43) to the product was carried out using the method described for synthesis of rel-(3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole (C19) in Example 2. The product was obtained as an oil. Yield: 0.10 g, 0.32 mmol, 64%. 1H NMR (400 MHz, CDCl3) δ 7.93 (ddd, J=9, 9, 7 Hz, 1H), 6.90 (br ddd, J=9, 8, 2 Hz, 1H), 6.80 (ddd, J=12, 8.6, 2.5 Hz, 1H), 6.45 (s, 1H), 4.12-4.21 (m, 1H), 3.60-3.95 (m, 4H), 3.09 (br dd, J=9, 9 Hz, 1H), 2.88 (br dd, J=10, 9 Hz, 1H), 2.18 (br dd, J=14, 7.5 Hz, 1H), 1.63-1.75 (m, 1H), 0.88-0.98 (m, 1H), 0.52-0.64 (m, 2H), 0.37-0.46 (m, 1H), 0.24-0.33 (m, 1H).

reactant | rel-(3R,3aR,5R)-5-cyclopropyl-3-(fluoromethyl)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2C(=NO[C@H]2CF)CO1 | C10H14FNO2
reactant | rel-(3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2[C@@](NOC2)(CO1)C1=C(C=C(C=C1)F)F | C15H17F2NO2
product | rel-(3R,3aR,5R,7aS)-5-cyclopropyl-7a-(2,4-difluorophenyl)-3-(fluoromethyl)hexahydro-1H-pyrano[3,4-c][1,2]oxazole | C1(CC1)[C@H]1C[C@@H]2[C@@](NO[C@H]2CF)(CO1)C1=C(C=C(C=C1)F)F | C16H18F3NO2
